### PR TITLE
[Merged by Bors] - perf(Algebra/IsPrimePow): speed up decidability for Nat IsPrimePow

### PR DESCRIPTION
**Pull request by BoltonBailey**
Previously, this decidability instance was defined using `isPrimePow_nat_iff_bounded`, which (as I understand it) means that it undertook a search over all pairs `p, k` of numbers below `n` until it finds one where `p` is prime, and `p^k = n`, or else loops through all possibilities.

This PR creates a new theorem which instead searches over possible values of the exponent first, bounding the search at the binary logarithm of `n`, and then a further theorem which uses `n.minFac` for `p`. This massively reduces the time for large `n`.

In principle this could be made polynomial time, if we were to compute the putative prime factor for each `k` by taking the `k`th root and checking primality with AKS. But until that is implemented, this seems like a fine improvement.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/IsPrimePow.lean [hunk 1]
```diff
@@ -76,8 +78,38 @@ theorem isPrimePow_nat_iff_bounded (n : ℕ) :
...
+                                   (Nat.pow_le_pow_left (Nat.Prime.two_le hp') k)
+  · rintro ⟨k, hk, hk', ⟨p, hp, rfl, hp'⟩⟩
+    exact ⟨p, k, hp', hk', rfl⟩
+
+theorem isPrimePow_nat_iff_bounded_log_minFac (n : ℕ) :
+    IsPrimePow n
+      ↔ ∃ k : ℕ, k ≤ Nat.log 2 n ∧ 0 < k ∧ n = n.minFac ^ k := by
+  rw [isPrimePow_nat_iff_bounded_log]
+  by_cases h : n = 1
+  · subst h
```
Comment (b-mehta) [inline Mathlib/Algebra/IsPrimePow.lean]:
```suggestion
  obtain rfl | h := eq_or_ne n 1
  · subst h
```

File: Mathlib/Algebra/IsPrimePow.lean [hunk 2]
```diff
@@ -76,8 +78,38 @@ theorem isPrimePow_nat_iff_bounded (n : ℕ) :
...
+    simp
+  constructor
+  · rintro ⟨k, hkle, hk_pos, p, hle, heq, hprime⟩
+    refine ⟨k, hkle, hk_pos, ?_⟩
+    · rw [heq, Nat.Prime.pow_minFac hprime hk_pos.ne']
```
Comment (b-mehta) [inline Mathlib/Algebra/IsPrimePow.lean]:
```suggestion
    rw [heq, hprime.pow_minFac hk_pos.ne']
```

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

**Comment by plp127** [comment]
Could this alternatively be done by starting with `n` and repeatedly dividing by `n.minFac` until it's no longer divisible, and then checking that the result is `1`? I feel like that would be faster than computing powers but I haven't actually tested anything.

**Comment by BoltonBailey** [comment]
> Could this alternatively be done by starting with `n` and repeatedly dividing by `n.minFac` until it's no longer divisible, and then checking that the result is `1`? I feel like that would be faster than computing powers but I haven't actually tested anything.

Yes, I guess I'm not really sure how Lean turns the theorem into a computation, but it seems like the theorem I made might be starting from 1 and recomputing higher and higher powers of minFac without reusing the intermediate results of the computation. Unclear to me how much faster it would become, but let me merge this and feel free to take it on yourself.

**Comment by b-mehta** [comment]
There's also `maxPowDiv` which might help with that. So I think the best way forward is to make a version of that which uses fuel, and also returns the quotient, ie given `p n : Nat`, return `a k` such that `a * p ^ k = n` and `k` is maximal (equivalently that `a` isn't divisible by `p`). And this should essentially give Aaron's idea, as well as being more generally useful.
